US04725601
Tosyl chloride (3.81 g) was added to a solution of 3-hydroxy-5-hexyn-2-one (2.24 g) and triethylamine (2.424 g) in methylene chloride (20 ml) under ice-cooling. After being stirred for 2.5 hours, the mixture was washed with water, dried over magnesium sulfate and evaporated in vacuo. The oily residue was purified by column chromatography on silica gel (60 g) using methylene chloride as an eluent to give an oil of 3-tosyloxy-5-hexyn-2-one (2.94 g).

reactant | Tosyl chloride | 3.81 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-hydroxy-5-hexyn-2-one | 2.24 g | OC(C(C)=O)CC#C | C6H8O2
reactant | triethylamine | 2.424 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-tosyloxy-5-hexyn-2-one | 2.94 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC(C(C)=O)CC#C | C13H14O4S
